US05104878
A solution of 1-(4-amino-2,6-dichlorophenyl)-4-trifluoromethylpyrimidin-6-one (as prepared in Preparation 1) (0.9 g) in acetonitrile (10 ml) was added dropwise to a stirred suspension of copper (II) chloride (0.37 g) and t-butylnitrite (1.46 g) in dry acetonitrile (8 ml) while the temperature was maintained between 0° and 5° C. After the addition was complete, the reaction mixture was stirred for a further 1 hour at 5° C., and then allowed to warm slowly to ambient temperature. The reaction mixture was then poured into 20% aqueous hydrochloric acid and extracted into diethyl ether. The combined organic extracts were washed with 20% aqueous hydrochloric acid, dried over anhydrous magnesium sulphate, filtered, and the solvent evaporated under reduced pressure. The residual oil was flushed through a plug of silica gel using petroleum ether (boiling range 60°-80° C.) containing diethyl ether (25% by volume) as eluent. Recrystallisation of the so generated white solid from petroleum ether (boiling range 60°-80° C.) gave 1-(2,4,6-trichlorophenyl)-4-trifluoromethylpyrimidin-6-one.

reactant | 1-(4-amino-2,6-dichlorophenyl)-4-trifluoromethylpyrimidin-6-one | 0.9 g | NC1=CC(=C(C(=C1)Cl)N1C=NC(=CC1=O)C(F)(F)F)Cl | C11H6Cl2F3N3O
reactant | t-butylnitrite | 1.46 g | C(C)(C)(C)ON=O | C4H9NO2
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
catalyst | copper (II) chloride | 0.37 g | [Cu](Cl)Cl
product | 1-(2,4,6-trichlorophenyl)-4-trifluoromethylpyrimidin-6-one | ClC1=C(C(=CC(=C1)Cl)Cl)N1C=NC(=CC1=O)C(F)(F)F | C11H4Cl3F3N2O
